US04284631
Conc.hydrochloric acid (0.4 ml.) was added to the solution of 7-[2-(2-formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetamido]-3-chloro-3-cephem-4-carboxylic acid (syn isomer, 0.6 g.) in methanil (20 ml.), and stirred at room temperature for 1.5 hours. After evaporating the solvent from the resultant mixture in vacuo, methanol was added to the residue. The mixture was evaporated in vacuo. The residue was dried over phosphorous pentoxide in vacuo to give 7-[2-(2-aminothiazol-4-yl)-2-(3-aminopropoxyimino)acetamido]-3-chloro-3-cephem-4-carboxylic acid dihydrochloride (syn isomer, 0.5 g.).

reactant | hydrochloric acid | 0.4 ml | Cl | ClH
reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetamido]-3-chloro-3-cephem-4-carboxylic acid | 0.6 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)=NOCCCNC(=O)OC(C)(C)C | C21H25ClN6O8S2
product | 7-[2-(2-aminothiazol-4-yl)-2-(3-aminopropoxyimino)acetamido]-3-chloro-3-cephem-4-carboxylic acid dihydrochloride | 0.5 g | Cl.Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)=NOCCCN | InChI=1S/C15H17ClN6O5S2.2ClH/c16-6-4-28-13-9(12(24)22(13)10(6)14(25)26)20-11(23)8(21-27-3-1-2-17)7-5-29-15(18)19-7;;/h5,9,13H,1-4,17H2,(H2,18,19)(H,20,23)(H,25,26);2*1H/t9?,13-;;/m1../s1
